US06537730B1
B] Vinylbenzyl trimethylphosphonium bromide
Trimethylphosphine (50.0 ml of a 1.0 molar solution in tetrahydrofuran, 5.00×10−2 mol) was added via addition funnel over about 2 minutes into a thoroughly nitrogen degassed dispersion of vinylbenzyl bromide (9.85 g, 5.00×10−2 mol) in diethyl ether (100 ml). A solid precipitate began to form almost immediately. The reaction was allowed to stir for 4 hours at room temperature, then was placed in a freezer overnight. The solid product was isolated by filtration, washed three times with 100 ml of diethyl ether, and dried under vacuum for 2 hours. Pure product (11.22 g) was recovered as a white powder (82.20% yield).

reactant | Trimethylphosphine | CP(C)C | C3H9P
reactant | vinylbenzyl bromide | 5.00×10−2 mol, 9.85 g | C(=C)C(C1=CC=CC=C1)Br | C9H9Br
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | Vinylbenzyl trimethylphosphonium bromide | 82.20% yield | [Br-].C(=C)C[P+](C)(C)CC1=CC=CC=C1 | InChI=1S/C12H18P.BrH/c1-4-10-13(2,3)11-12-8-6-5-7-9-12;/h4-9H,1,10-11H2,2-3H3;1H/q+1;/p-1
